US09388190B2
A mixture of (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (0.9 g, 2.56 mmol), 2-chloro-4-(trifluoromethyl)pyrimidine (1.0 g, 5.1 mmol, 2 eq.) and DIEA (1.0 g, 7.7 mmol, 3 eq.) in i-PrOH (6 mL) was stirred in a microvave oven at 150° C. for 2 h. TLC showed the starting material was consumed completely (PE: EtOAc=3:1). The solvent was removed in vacuo at 40° C., and the residue was purified by column chromatography on silica gel eluting with PE/EtOAc=6/1 to give (R)-methyl 1-isopropyl-7-(methylsulfonyl)-2-(4-(trifluoromethyl)pyrimidin-2-yl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (1.0 g, 78% yield) as a white solid. LC-MS m/z 498.1 [M+H]+. 1H NMR (CDCl3 300 MHz): δ 8.52 (d, J=4.8 Hz, 1H), 8.13 (s, 1H), 8.06 (s, 1H), 6.83 (d, J=4.8 Hz, 1H), 6.06 (d, J=7.8 Hz, 1H), 5.39-5.28 (m, 1H), 4.33-4.24 (m, 1H), 4.20-4.12 (m, 1H), 3.93 (s, 3H), 3.77-3.65 (m, 1H), 3.39 (s, 3H), 2.52-2.38 (m, 1H), 1.25 (d, J=6.9 Hz, 3H), 1.02 (d, J=6.6 Hz, 3H).

reactant | (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 2.56 mmol, 0.9 g | C(C)(C)[C@@H]1C=2N(CCN1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C16H21N3O4S
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 5.1 mmol, 1.0 g, 2 eq. | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | DIEA | 7.7 mmol, 1.0 g, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | i-PrOH | 6 mL | CC(C)O | C3H8O
product | (R)-methyl 1-isopropyl-7-(methylsulfonyl)-2-(4-(trifluoromethyl)pyrimidin-2-yl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 1.0 g, 78% yield | C(C)(C)[C@@H]1C=2N(CCN1C1=NC=CC(=N1)C(F)(F)F)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C21H22F3N5O4S
